US05574049
a. 4-Bromo-3-methylphenol acetate
A stirred mixture of 4-bromo-3-methylphenol (184.1 g) and aqueous NaOH (850 ml, 2M) at 20° C. is treated with acetic anhydride (136 ml) and stirred at room temperature for 1 h. The suspension is extracted with diethyl ether (3×300 ml) and the combined extracts are washed with aqueous NaOH (2×100 ml 2M), dried (Na2SO4) and filtered. The solvent is evaporated off under reduced pressure to yield the title compound as an oil.

reactant | 4-bromo-3-methylphenol | 184.1 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | acetic anhydride | 136 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | NaOH | 2M, 850 ml | [OH-].[Na+]
product | 4-Bromo-3-methylphenol acetate | C(C)(=O)OC1=CC(=C(C=C1)Br)C | C9H9BrO2
